US07361678B2
To a stirred solution of 1-fluoro-4-nitrobenzene (10 mmol) in DMF (10 mL) at rt, solid potassium carbonate (30 mmol) was added followed by addition of 4-chloro-2-cyclohexylphenol (10 mmol) to the reaction mixture and heating to 80° C. until the reaction was complete as indicated by TLC or HPLC. After cooling to rt, the reaction mixture was poured into EtOAc (80ml), washed with H2O (2×40 ml) and brine (60 mL), and dried over sodium sulfate. The solvent was removed in vacuuo to afford the desired 4-(4-chloro-2-cyclohexylphenoxy)-1-nitrobenzene. The crude product was used for further transformation.

reactant | 1-fluoro-4-nitrobenzene | 10 mmol | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 30 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-2-cyclohexylphenol | 10 mmol | ClC1=CC(=C(C=C1)O)C1CCCCC1 | C12H15ClO
reactant | EtOAc | 80ml | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-(4-chloro-2-cyclohexylphenoxy)-1-nitrobenzene | ClC1=CC(=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=C1)C1CCCCC1 | C18H18ClNO3
